US08124778B2
A solution of hept-6-ynoic acid (1.90 g, 14.8 mmol) in anhydrous THF (90 mL) at −78° C. was treated with n-BuLi (2.3 M in hexanes, 14.5 mL, 33.3 mmol). After stirring for 2 min, TMSCl (5.8 mL, 46.0 mmol) was added. The reaction mixture was allowed to warm slowly to 25° C. and was stirred for 1 h. The reaction was quenched with the addition of aqueous 2 N HCl and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated. Column chromatography (SiO2, 4×6 cm, 20% EtOAc-hexanes) afforded 7-(trimethylsilyl)hept-6-ynoic acid (2.7 g, 13.6 mmol, 92%) as a white solid: 1NMR (CDCl3, 500 MHz) δ 2.40 (t, 2H, J=7.4 Hz), 2.24 (t, 2H, J=7.3 Hz), 1.78-1.72 (m, 2H), 1.62-1.56 (m, 2H), 0.15 (s, 9H).

reactant | hept-6-ynoic acid | 14.8 mmol, 1.90 g | C(CCCCC#C)(=O)O | C7H10O2
reactant | n-BuLi | 33.3 mmol, 2.3 M, 14.5 mL | [Li]CCCC
reactant | TMSCl | 46.0 mmol, 5.8 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 7-(trimethylsilyl)hept-6-ynoic acid | 13.6 mmol, 2.7 g, 92% | C[Si](C#CCCCCC(=O)O)(C)C | C10H18O2Si
